US07745452B2
To a solution of 0.062 g (0.14 mmol) 6-chloro-4-ethyl-4-(4-bromophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one in 1 mL DMF was added 0.015 g (0.17 mmol) copper(I) cyanide and the mixture heated in a sealed tube at 200° C. for 2 hours. After cooling to room temperature, the mixture was filtered and the resulting DMF solution purified by preperative reverse phase chromatography (linear gradient 5 to 95% CH3CN/H2O over 30 min, 0.05% added TFA, C18 SunFire 19×150 mm) to provide 6-chloro-4-ethyl-4-(4-cyanophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one. 1H NMR (CDCl3, 400 MHz) δ 8.06 (s, NH); 7.71 (br d, 2H, J=8.24 Hz); 7.55 (br d, 2H, J=8.43 Hz); 7.14 (dd, 1H, J=8.61 and 2.20 Hz); 6.69 (d, 1H, J=8.61 Hz); 6.43 (d, 1H, J=2.02 Hz); 3.78 (dq, 1H, J=8.97 and 18 Hz); 3.60 (dq, 1H, J=8.43 and 17 Hz); 2.44 (dq, 1H, J=7.15 and 14 Hz); 2.27 (dq, 1H, J=7.14 and 14 Hz); 0.93 (t, J=7.15 Hz, 3H); MS (Electrospray): exact mass calculated for C19H15ClF3N3O+H 394.0929 found 394.0937

reactant | 6-chloro-4-ethyl-4-(4-bromophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | 0.14 mmol, 0.062 g | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C1=CC=C(C=C1)Br)CC | C18H15BrClF3N2O
reactant | copper(I) cyanide | 0.17 mmol, 0.015 g | [Cu]C#N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-chloro-4-ethyl-4-(4-cyanophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C1=CC=C(C=C1)C#N)CC | C19H15ClF3N3O
